US07648987B2
a) 7-(8-Chloro-3-ethoxy-imidazo[1,5-a]pyrazin-1-yl)-2-phenyl-quinoline
A 80 mL sealed tube is charged with 8-chloro-1-(2-phenyl-quinolin-7-yl)-2H-imidazo[1,5-a]pyrazin-3-one (50.00 mg, 0.1341 mmol), silver carbonate (74 mg, 0.27 mmol), anhydrous ethanol (2.00 mL, 0.034 mol), 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (0.002 mL, 0.01 mmol), and iodoethane (0.012 mL, 0.15 mmol). The reaction was sealed under an atmosphere of nitrogen and heated at 40° C. for 24 hours. The reaction was cooled and filtered. Water and EtOAc were added and the organic layer was isolated, dried over sodium sulfate, filtered and concentrated in vacuo to yield a yellow gum. The crude product was purified via silica gel column chromatography, (Jones, 5 gram column eluting with 50% EtOAc: Hex) to yield the title compound as a yellow gum; MS (ES+): m/z 401.03 (100) [MH+], 402.98 (30) [MH+++]; HPLC: tR=4.13 min (OpenLynx, polar—5 min); 1HNMR (400 MHz, CHLOROFORM-d) δ ppm 1.41-1.72 (m, 3H), 4.55-4.86 (m, 2H), 7.18 (d, J=4.80 Hz, 1H), 7.38-7.65 (m, 4H), 7.75-8.00 (m, 3H), 8.09-8.33 (m, 3H), 8.52 (br. s., 1H).

reactant | 8-chloro-1-(2-phenyl-quinolin-7-yl)-2H-imidazo[1,5-a]pyrazin-3-one | 0.1341 mmol, 50.00 mg | ClC=1C=2N(C=CN1)C(NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)=O | C21H13ClN4O
reactant | ethanol | 0.034 mol, 2.00 mL | C(C)O | C2H6O
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 0.01 mmol, 0.002 mL | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | iodoethane | 0.15 mmol, 0.012 mL | ICC | C2H5I
catalyst | silver carbonate | 0.27 mmol, 74 mg | C([O-])([O-])=O.[Ag+2]
product | 7-(8-Chloro-3-ethoxy-imidazo[1,5-a]pyrazin-1-yl)-2-phenyl-quinoline | ClC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)OCC | C23H17ClN4O
